US06436982B1
1-(4-Methoxybenzyl)-4-bromo-5-aminobenzimidazole.
To a solution of 1-(4-methoxybenzyl)-5-aminobenzimidazole (0.80 g, 2.2 mmol) in 20 ml of AcOH was added solution of Br2 in AcOH until it produces a precipitation. The reaction mixture was concentrated in vacuo to provide a brown solid which was subjected to column chromatography (5% NH3 sat'd MeOH/CHCl3) to provide 0.90 g (2.1 mmol, 95%) of the product.

reactant | 1-(4-methoxybenzyl)-5-aminobenzimidazole | 2.2 mmol, 0.80 g | COC1=CC=C(CN2C=NC3=C2C=CC(=C3)N)C=C1 | C15H15N3O
reactant | Br2 | BrBr | Br2
reactant | NH3 | N | H3N
reactant | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | AcOH | 20 ml | CC(=O)O | C2H4O2
product | 1-(4-Methoxybenzyl)-4-bromo-5-aminobenzimidazole | 2.1 mmol, 0.90 g, 95% | COC1=CC=C(CN2C=NC3=C2C=CC(=C3Br)N)C=C1 | C15H14BrN3O
